US06288221B1
4′-Methyl-2,2′-bipyridine-4-carboxylic acid
A suspension of 4′-methyl-2,2′-bipyridine-4-carboxaldehyde (3.5 g, 15 mmol) in 95% EtOH (150 ml) was added a solution of AgNO3 (3.15 g) in water (32 ml). The suspension was stirred rapidly and 1M NaOH (79 ml) solution was added dropwise over 20 min to form Ag2O. The dark black solution was stirred for an additional 15 hrs. EtOH was removed by rotary evaporator and filtred to remove Ag2O and unreacted metallic Ag. The residue was washed with 1.3M NaOH (2*20 ml) and H2O 20 ml. The combined basic filterate was extracted with DCM to remove unreacted aldehyde and adjusted to pH 3.5 with 1:1(v/v) 4N HCl/AcOH to afford white compound. After keeping overnight at −10° C. the compound was collected and dried to afford pure compound 2.9 g (77%). Mass Spect. (FAB) MW 215 [M+]; NMR assigned.

reactant | 4′-methyl-2,2′-bipyridine-4-carboxaldehyde | 15 mmol, 3.5 g | CC1=CC(=NC=C1)C1=NC=CC(=C1)C=O | C12H10N2O
reactant | NaOH | 1M, 79 ml | [OH-].[Na+]
solvent | EtOH | 150 ml | CCO | C2H6O
solvent | water | 32 ml | O | H2O
catalyst | AgNO3 | 3.15 g | [N+](=O)([O-])[O-].[Ag+]
product | 4′-Methyl-2,2′-bipyridine-4-carboxylic acid | 2.9 g, 77% | CC1=CC(=NC=C1)C1=NC=CC(=C1)C(=O)O | C12H10N2O2
